US05258469
A dry r. b. flask was loaded with 108 ml of 2-vinylpyridine (1 mole) and 92 ml of dimethylphosphite (1 mole) under nitrogen. Dropwise addition of 25 ml of dichlorodimethylsilane (0.21 mole) gave exothermic reaction to 86° C. even with ice bath cooling. Once the exotherm subsided the reaction mixture was fitted for vacuum distillation. A possible exotherm was noted around 98° C. The distillation was shut down, the traps cleaned, and distillation recommenced giving 100 g dimethyl 2-(2-pyridyl)ethylphosphonate b0.2 =131°-146° C. as a yellow fluid. Proton NMR in CDCl3 /TMS showed a 2H multiplet at 2.3 ppm, a 2H multiplet at 3.1 ppm, a 6.5 H 1:1 doublet at 3.7 ppm, and 4.5 aromatic H as multiplets between 7.1 and 8.6 ppm.

reactant | 2-vinylpyridine | 1 mole, 108 ml | C(=C)C1=NC=CC=C1 | C7H7N
reactant | dimethylphosphite | 1 mole, 92 ml | COP(OC)[O-]
reactant | dichlorodimethylsilane | 0.21 mole, 25 ml | Cl[Si](C)(C)Cl | C2H6Cl2Si
product | dimethyl 2-(2-pyridyl)ethylphosphonate | 100 g | N1=C(C=CC=C1)CCP(OC)(OC)=O | C9H14NO3P
